US05252732
To a stirred solution of tri(thien-2-yl)bismuthine (80 mg., 0.175 mmol.) in CH2Cl2 (2 mL.) was added peracetic acid (0.060 mL., 0.253 mmol., 32% in acetic acid) followed in 15 minutes by 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]-octacos-18-ene-2,3,10,16-tetraone (100 mg., 0.126 mmol.) and Cu(OAc)2 (10 mg., 0.055 mmol.). The reaction mixture was allowed to stir at room temperature for 3 days. The reaction was quenched with saturated aqueous NaHCO3, and the mixture extracted with CH2Cl2. The extracts were combined, dried with Na2SO4, filtered and concentrated in vacuo. The product was isolated and purified by preparative TLC 2× on silica gel (2:1, hexane/acetone) to give 36 mg of 17-ethyl-1,14-dihydroxy-12-[2'-(4" -(thien-2-yl)oxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]-octacos-18-ene-2,3,10,16-tetraone.

reactant | tri(thien-2-yl)bismuthine | 0.175 mmol, 80 mg | S1C(=CC=C1)[Bi](C=1SC=CC1)C=1SC=CC1
reactant | peracetic acid | 0.253 mmol, 0.060 mL | C(C)(=O)OO | C2H4O3
reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]-octacos-18-ene-2,3,10,16-tetraone | 0.126 mmol, 100 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)O)=O | C43H69NO12
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | Cu(OAc)2 | 0.055 mmol, 10 mg | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 17-ethyl-1,14-dihydroxy-12-[2'-(4" -(thien-2-yl)oxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]-octacos-18-ene-2,3,10,16-tetraone | 36 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC=2SC=CC2)OC)C)C)O)=O | C47H71NO12S
